US07825109B2
methyl 3-[4-(3-phenylpropoxy)phenyl]propanoate
To a solution of methyl 3-(4-hydroxyphenyl)propanoate (2.50 g) and 3-phenylpropan-1-ol (2.8 mL) in tetrahydrofuran (70 mL), triphenylphosphine (5.46 g) was added at room temperature. Next, diethyl azodicarboxylate (9.4 mL, 40% toluene solution) was added dropwise thereto, followed by stirring at room temperature for 2 hours. Then, the reaction mixture was concentrated and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=30:1 to 5:1) to give the title compound (3.02 g) having the following physical properties.

reactant | methyl 3-(4-hydroxyphenyl)propanoate | 2.50 g | OC1=CC=C(C=C1)CCC(=O)OC | C10H12O3
reactant | 3-phenylpropan-1-ol | 2.8 mL | C1(=CC=CC=C1)CCCO | C9H12O
reactant | triphenylphosphine | 5.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 9.4 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | methyl 3-[4-(3-phenylpropoxy)phenyl]propanoate | 3.02 g | C1(=CC=CC=C1)CCCOC1=CC=C(C=C1)CCC(=O)OC | C19H22O3
